US05068371
3-(2,4-Difluorophenyl)propionitrile
74.0 g (0.40 mol) of 3-(2,4-difluorophenyl)propanamide are mixed with 124 g (0.87 mol) of phosphorus pentoxide, and the mixture is heated to 200° C. in an oil bath in a flask fitted with falling condenser. The resultant liquid is distilled off by applying a vacuum of about 67 mbar. 48.5 g of a colourless oil, which is subjected to fractional distillation at 120°-124° C. in vacuo (19 mbar), are obtained. 46.5 g (70% of theory) of the expected product are obtained.

reactant | 3-(2,4-difluorophenyl)propanamide | 0.40 mol, 74.0 g | FC1=C(C=CC(=C1)F)CCC(=O)N | C9H9F2NO
reactant | phosphorus pentoxide | 0.87 mol, 124 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
product | 3-(2,4-Difluorophenyl)propionitrile | FC1=C(C=CC(=C1)F)CCC#N | C9H7F2N
